US07851634B2
e) Acetic acid 4-(4-methoxy-but-1-ynyl)pyridin-3-yl ester
0.95 mmol Palladium dichloride bis-triphenylphoshine and 0.97 mmol cupric chloride are dissolved in 64 ml tetrahydrofuran under an argon atmosphere. A solution of 30 mmol acetic acid 4-iodo-pyridin-3-yl ester [289473-46-7] and 38 mmol 4-methoxy-but-1-yne [36678-08-7] in 50 ml tetrahydrofuran is added in one portion and the reaction mixture is stirred at room temperature for 1 hour. 300 ml of diethyl ether are added and the precipitate is filtered off. The filtrate is washed successively with saturated, aqueous ammonium chloride solution (3×), water (2×) and brine. The organic layer is dried over sodium sulphate, filtered and concentrated. The title compound is obtained from the residue by means of flash chromatography (SiO2 60 F) and identified based on its Rf value.

reactant | acetic acid 4-iodo-pyridin-3-yl ester | 30 mmol | IC1=C(C=NC=C1)OC(C)=O | C7H6INO2
reactant | 4-methoxy-but-1-yne | 38 mmol | COCCC#C | C5H8O
reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 64 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Acetic acid 4-(4-methoxy-but-1-ynyl)pyridin-3-yl ester | COCCC#CC1=C(C=NC=C1)OC(C)=O | C12H13NO3
